US06596734B1
1-(3,5-dibromo-4-methoxybenzyl)-6-(4-methoxy-benzyloxy)-7-nitro-1,2,3,4-tetrahydro-isoquinoline-2-carboxylic acid tert-butyl ester.
A mixture of 1-(3,5-dibromo-4-methoxy-benzyl)-6-hydroxy-7-nitro-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester (0.002 mol), K2CO3 (0.331 g, 0.0024 mol) and 4-methoxybenzyl chloride (0.376 g, 0.0024 mol) in 10 mL of DMF was heated for 4 h at 100° C. 0.17 g (0.00109 mol) of 4-methoxybenzyl chloride was added additionally. The reaction mixture was heated for 5 h at 100° C., cooled, poured in water, cooled, filtered and dried in vacuum. The residue was dissolved in ethyl acetate and filtered through silica gel. The solution was concentrated. The residue was crystallized from chloroform-hexanes mixture. Yield 0.96 g (72%).

reactant | 1-(3,5-dibromo-4-methoxy-benzyl)-6-hydroxy-7-nitro-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester | 0.002 mol | C(C)(C)(C)OC(=O)N1C(C2=CC(=C(C=C2CC1)O)[N+](=O)[O-])CC1=CC(=C(C(=C1)Br)OC)Br | C22H24Br2N2O6
reactant | K2CO3 | 0.0024 mol, 0.331 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxybenzyl chloride | 0.0024 mol, 0.376 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | 4-methoxybenzyl chloride | 0.00109 mol, 0.17 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(3,5-dibromo-4-methoxybenzyl)-6-(4-methoxy-benzyloxy)-7-nitro-1,2,3,4-tetrahydro-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C2=CC(=C(C=C2CC1)OCC1=CC=C(C=C1)OC)[N+](=O)[O-])CC1=CC(=C(C(=C1)Br)OC)Br | C30H32Br2N2O7
